US07456200B2
3-Chloro-benzoic acid hydrazide (3.4 g, 20 mmol) and succinic anhydride (2. g, 20 mmol) was mixed in ethyl acetate (50 ml) at room temperature for 15 min. The reaction mixture was diluted with ether and the precipitate was filtered to give 5.1 g of 4-[N′-(3-chloro-benzoyl)-hydrazino]-4-oxo-butyric acid. 1H-NMR(CDCl3+DMSO-d6) d(ppm): 10.01 (s, 1H), 9.53 (s, 1H), 7.68 (s, 1H), 7.55 (d, 1H), 7.21 (d, 1H), 7.12 (t, 1H) and 2.35 (m, 4H). This solid was mixed with conc. H2SO4 and stirred at room temperature for 45 min and the reaction mixture was carefully added to crashed ice (400 g). The precipitate was filtered to give 4.07 g (80.6%) of 3-[5-(3-Chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-propionic acid as white solid. 1H-NMR(DMSO-d6) d(ppm): 12.4 (w, 1H), 7.96 (s, 1H), 7.91 (d, 1H), 7.71 (d, 1H), 7.63 (t, 1H), 3.15 (t, 2H) and 2.82 (t, 2H). Step 2: 3-[5-(3-Chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-propionic acid hydrazide: 3-[5-(3-Chloro-phenyl)-[1,3,4)oxadiazol-2-yl]-propionic acid (2.52 g, 10 mmol) was mixed with iodomethane (5.68 g, 40 mmol) and K2CO3 (5.52 g, 40 mmol) in DMF (25 ml) at room temperature overnight. The reaction mixture was diluted with ethyl acetate and washed with water 3 times, dried with MgSO4 and concentrated to give 2.57 g of 3-[5-(3-Chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-propionic acid methyl ester. The methyl ester (2.54 g, 9.52 mmol) was mixed with 98% hydrazine hydrate (4.76 g, 95.2 mmol) in methanol (10 ml) for an h. The reaction mixture was concentrated, diluted with water, filtered to give 2.17 g (81.4%) of 3-[5-(3-Chloro-phenyl)-[1,3,4]oxadiazol-2-yl]-propionic acid hydrazide as white solid. 1H-NMR(CDCl3+DMSO-d6) d(ppm): 8.75 (w, 1H), 7.91 (s, 1H), 7.82 (d, 1H), 7.42 (m, 2H), 3.45 (w, 2H), 3.19 (t, 2H) and 2.68 (t, 2H).

reactant | 3-Chloro-benzoic acid hydrazide | 20 mmol, 3.4 g | ClC=1C=C(C(=O)NN)C=CC1 | C7H7ClN2O
reactant | succinic anhydride | 20 mmol | C1(CCC(=O)O1)=O | C4H4O3
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 4-[N′-(3-chloro-benzoyl)-hydrazino]-4-oxo-butyric acid | 5.1 g | ClC=1C=C(C(=O)NNC(CCC(=O)O)=O)C=CC1 | C11H11ClN2O4
